US06552022B1
5-Chloro-4′-trifluoromethyl-biphenyl-2-carboxylic Acid
To a solution of 5′-chloro-2′-methyl-4-trifluoromethyl-biphenyl (27 g) in a mixture of t-butanol (100 mL) and H2O (200 mL) was added portionwise KMnO4 (46.9 g). At the end of the addition, the mixture was heated under reflux for 16 hours, cooled to room temperature and filtered on celite. The filtrate was then acidified with concentrated HCl and the aqueous layer was extracted with AcOEt. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated under reduced pressure to give the title compound (24 g) as white crystals.

reactant | 5′-chloro-2′-methyl-4-trifluoromethyl-biphenyl | 27 g | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C(F)(F)F)C | C14H10ClF3
reactant | KMnO4 | 46.9 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | H2O | 200 mL | O | H2O
solvent | t-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | 5-Chloro-4′-trifluoromethyl-biphenyl-2-carboxylic Acid | 24 g | ClC1=CC=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C14H8ClF3O2
